US07592373B2
4.33.e. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-chloro-4-[2-(cyclopropylmethylamino)ethyl]phenyl}amide
Prepared analogously to Example 2.3.f. from (2-chloro-4-trifluoromethylphenyl)propynoic acid and 3-chloro-4-[2-(cyclopropylmethylamino)ethyl]phenylamine. Yield: 15 mg (3.4% of theory); C22H19Cl2F3N2O (M=455.31); calc.: molecular ion peak (M+H)+: 455/457/459; found: molecular ion peak (M+H)+: 455/457/459; Rf value: 0.3 (Alox, petroleum ether/ethyl acetate (3:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 3-chloro-4-[2-(cyclopropylmethylamino)ethyl]phenylamine | ClC=1C=C(C=CC1CCNCC1CC1)N | C12H17ClN2
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{3-chloro-4-[2-(cyclopropylmethylamino)ethyl]phenyl}amide | ClC=1C=C(C=CC1CCNCC1CC1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C22H19Cl2F3N2O
